US04317776
A solution of 1.5 g (0.03 mol) of hydrazine hydrate in 50 mL of EtOH was treated with 3.86 g (0.02 mol) of 1-adamantyl isothiocyanate, and stirred for 1 hr at room temp. The product was collected and washed 2 times with EtOH, affording 4.33 g (96%) of 4-(1-adamantyl)-3-thiosemicarbazide, mp 206°-207° C. dec. This thiosemicarbazide is disclosed in Chemical Abstracts, 70:11223 (1969); and in U.S. Pat. No. 3,406,180.

reactant | hydrazine hydrate | 0.03 mol, 1.5 g | O.NN
reactant | 1-adamantyl isothiocyanate | 0.02 mol, 3.86 g | C12(CC3CC(CC(C1)C3)C2)N=C=S | C11H15NS
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-(1-adamantyl)-3-thiosemicarbazide | 4.33 g, 96% | C12(CC3CC(CC(C1)C3)C2)NC(NN)=S | C11H19N3S
